US07501518B2
Using General Procedure A: A solution of 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (0.547 g, 2.04 mmol), 2-(2-bromomethyl-phenyl)-2-methyl-[1,3]dioxolane (1.03 g, 3.99 mmol), KI (73 mg, 0.42 mmol), and DIPEA (0.70 mL, 4.02 mmol) in DMF (10 mL) was heated at 60° C. for 24 hours. Purification of the crude material by column chromatography on silica gel (40:1:1 CH2Cl2—CH3OH—NH4OH) provided 0.81 g (90%) of 3,3″-dimethyl-1′-[2-(2-methyl-[1,3]dioxolan-2-yl)-benzyl]-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine as a white solid. 1H NMR (CDCl3) δ 1.46 (s, 3H), 1.60-1.83 (m, 3H), 2.15-2.20 (m, 1H), 2.47-2.57 (m, 8H), 3.26-3.31 (m, 2H), 3.82-3.87 (m, 2H), 4.01 (s, 2H), 4.44 (d, 2H, J=10.8 Hz), 6.72-6.82 (m, 4H), 7.05 (dd, 1H, J=7.2, 1.5 Hz), 7.21 (d, 2H, J=7.2 Hz), 7.46 (d, 1H, J=6.9 Hz), 8.19 (d, 2H, J=4.8 Hz); ES-MS m/z 444 (M+H).

reactant | 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 2.04 mmol, 0.547 g | CC=1C(=NC=CC1)C1NC(CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 2-(2-bromomethyl-phenyl)-2-methyl-[1,3]dioxolane | 3.99 mmol, 1.03 g | BrCC1=C(C=CC=C1)C1(OCCO1)C | C11H13BrO2
reactant | DIPEA | 4.02 mmol, 0.70 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3,3″-dimethyl-1′-[2-(2-methyl-[1,3]dioxolan-2-yl)-benzyl]-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 0.81 g, 90% | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CC1=C(C=CC=C1)C1(OCCO1)C | C28H33N3O2
